US06545023B2
Methyl 3-Oxocyclopentane Carboxylate
A solution of methyl 3-methylenecyclopentane carboxylate (Trost, B. M., Chan, M. T., J. Am. Chem. Soc., 1983, 105, 2315) (2.84 g, 20.26 mmol) in dichloromethane (60 mL) was cooled to −78° C. and a slow stream of ozone was passed through until the permanent blue color indicated complete ozonide formation. The excess ozone was purged with stream of nitrogen. Triphenylphosphine (10.62 g, 40.52 mmol) was added, and stirring was continued overnight, allowing the temperature to warm up to ambient. Solvent was removed in vacuo, the residue dissolved in 10 mL of ethyl acetate/hexane (1:4) mixture. The crystalline triphenylphosphine oxide was removed by filtration, and the residue was purified by mplc (ethyl acetate/hexanes (1:4) to yield 1.5651 g (54%) of the desired product.

reactant | methyl 3-methylenecyclopentane carboxylate | 20.26 mmol, 2.84 g | C=C1CC(CC1)C(=O)OC | C8H12O2
reactant | ozone | O=[O+][O-] | O3
reactant | Triphenylphosphine | 40.52 mmol, 10.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | Methyl 3-Oxocyclopentane Carboxylate | 1.5651 g, 54% | O=C1CC(CC1)C(=O)OC | C7H10O3
